US08633173B2
2-[4-(4-{8-[2-(2,2-Difluoro-ethoxy)-5-trifluoromethyl-phenyl]-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino}-phenyl)-piperidin-1-yl]-N,N-dimethyl-acetamide was prepared from {8-[2-(2,2-difluoro-ethoxy)-5-trifluoromethyl-phenyl]-[1,2,4]-triazolo[1,5-a]pyridin-2-yl}-(4-piperidin-4-yl-phenyl)-amine (0.067 g, 0.130 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.020 mL, 0.190 mmol) in a manner analogous to Example 313 to give product (0.020 g, 26%). MP=98-101° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.54 (s, 1H), 8.80 (d, 1H), 8.08 (s, 1H), 7.82 (d, 1H), 7.68 (d, 1H), 7.58 (m, 2H), 7.45 (d, 1H), 7.10 (m, 3H), 6.30 (br m, 1H), 4.49 (m, 2H), 3.15 (s, 2H), 3.05 (s, 3H), 2.95 (m, 2H), 2.82 (s, 3H), 2.38 (m, 1H), 2.12 (m, 2H), 1.55-1.72 (br m, 4H): MS=603 (MH)+.

reactant | {8-[2-(2,2-difluoro-ethoxy)-5-trifluoromethyl-phenyl]-[1,2,4]-triazolo[1,5-a]pyridin-2-yl}-(4-piperidin-4-yl-phenyl)-amine | 0.130 mmol, 0.067 g | FC(COC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2)F | C26H24F5N5O
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.190 mmol, 0.020 mL | ClCC(=O)N(C)C | C4H8ClNO
product | 2-[4-(4-{8-[2-(2,2-Difluoro-ethoxy)-5-trifluoromethyl-phenyl]-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino}-phenyl)-piperidin-1-yl]-N,N-dimethyl-acetamide | FC(COC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N(C)C)F | C30H31F5N6O2
